US05221676
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid
Starting from 1 cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.25 g, 4.7 mmol) and 2-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (1.57 g, 85%) as an off-white solid, mp 216°-219° C.

reactant | cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.7 mmol, 1.25 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 2-(3-pyrrolidinyl)pyridine | N1CC(CC1)C1=NC=CC=C1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(2-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 1.57 g, 85% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)C1=NC=CC=C1)F)=O)C(=O)O | C22H20FN3O3
